US05045561
Step D: Preparation of 5,6-Dihydro-6-dimethylaminomethyl-4H-furano[2,3-b]thiopyran
To a stirring, refluxing solution of N,N-dimethyl-4-oxo-5,6-dihydro-4H-furano[2,3-b]thiopyran-6-carboxamide (7.1 g, 0.0314 mol) in tetrahydrofuran (150 ml) was added dropwise borane-dimethyl sulfide complex (9.4 ml, 0.014 mol). The reaction was then stirred at reflux for 3 hr. when 6NHCl (25 ml) was added slowly and the reaction was heated at reflux for a further 1/2 hr. Most of the tetrahydrofuran was removed in vacuo and the residue was diluted with 6N HCl (50 ml) and heated again for 1/2 hr. The reaction was cooled to room temperature and water (100 ml) was added. The reaction was extracted once with ether (50 ml) and then basified with 10N NaOH (75 ml). The product was extracted with ethyl acetate (4×50 ml portions). The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give the product.

reactant | N,N-dimethyl-4-oxo-5,6-dihydro-4H-furano[2,3-b]thiopyran-6-carboxamide | 0.0314 mol, 7.1 g | CN(C(=O)C1CC(C2=C(S1)OC=C2)=O)C | C10H11NO3S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5,6-Dihydro-6-dimethylaminomethyl-4H-furano[2,3-b]thiopyran | CN(C)CC1CCC2=C(S1)OC=C2 | C10H15NOS
